US09278940B2
To a solution of 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.200 g, 0.664 mmol) in DMSO (1.5 mL) under nitrogen was added 1-[2-(methylsulfonyl)ethyl]piperazine hydrochloride (0.265 g, 0.996 mmol) and 1,1,3,3-tetramethylguanidine. The reaction was stirred at 80° C. for 18 h. After that time the reaction was cooled to rt, diluted with ethyl acetate (50 mL), washed with water (2×20 mL), brine, dried over Na2SO4 and concentrated under reduced pressure. The product was purified by flash column chromatography (silica gel, 95:5 dichloromethane/methanol) to give 5,7-dimethoxy-2-(6-(4-(2-(methylsulfonyl)ethyl)piperazin-1-yl)pyridin-2-yl)quinazolin-4(3H)-one (0.120 g, 38%) as a yellow solid: mp 243-244° C.; 1H NMR (400 MHz, CDCl3): δ 10.28 (br s, 1H), 7.88 (d, J=7.3 Hz, 1H), 7.73-7.66 (m, 1H), 6.87-6.81 (m, 2H), 6.49 (d, J=2.2 Hz, 1H), 3.99 (s, 3H), 3.94 (s, 3H), 3.69-3.61 (m, 4H), 3.23 (t, J=6.4 Hz, 2H), 3.09 (s, 3H), 2.98 (t, J=6.4 Hz, 2H), 2.72-2.64 (m, 4H).

reactant | 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.664 mmol, 0.200 g | FC1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C15H12FN3O3
reactant | 1-[2-(methylsulfonyl)ethyl]piperazine hydrochloride | 0.996 mmol, 0.265 g | Cl.CS(=O)(=O)CCN1CCNCC1
reactant | 1,1,3,3-tetramethylguanidine | CN(C(=N)N(C)C)C | C5H13N3
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5,7-dimethoxy-2-(6-(4-(2-(methylsulfonyl)ethyl)piperazin-1-yl)pyridin-2-yl)quinazolin-4(3H)-one | 0.120 g, 38% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=NC(=CC=C1)N1CCN(CC1)CCS(=O)(=O)C)=O | C22H27N5O5S
